US05073559
Example 20 2-(2-Propoxy-5-sulphamoylphenyl)purin-6-one
In a similar manner to Example 18 reaction of 2-(2-propoxyphenyl)purin-6-one (0.95 g) with chlorosulphonic acid (4.5 ml), followed by reaction with saturated methanolic ammonia (50 ml), yielded a crude product (0.92 g) which was recrystallised from aqueous ethanol and then from dimethylformamide to yield the pure title compound, 0.59 g, m.p. 276°-278° C.

reactant | 2-(2-propoxyphenyl)purin-6-one | 0.95 g | C(CC)OC1=C(C=CC=C1)C1=NC(C2=NC=NC2=N1)=O | C14H12N4O2
reactant | chlorosulphonic acid | 4.5 ml | ClS(=O)(=O)O | ClHO3S
reactant | ammonia | 50 ml | N | H3N
product | 2-(2-Propoxy-5-sulphamoylphenyl)purin-6-one | C(CC)OC1=C(C=C(C=C1)S(N)(=O)=O)C1=NC(C2=NC=NC2=N1)=O | C14H13N5O4S
